US04093617
3-Bromo-5,7-dimethyl pyrazolo[1,5-a]pyrimidine
To a solution of 2.0g (13.6 mmloes) 5,7-dimethyl pyrazolo[1,5-a]-pyrimidine [Y. Makisumi, Chem. Pharm. Bull. (Tokyo) 10, 612 (1962)] in CHCl3 (25 ml) was added N-bromosuccinimide (NBS) [2.42 g (13.6 mmloes)]. This mixture was heated on the steam bath for 10 minutes, and then allowed to cool to room temperature. The clear yellow solution was then added to an ice cold solution of potassium hydroxide (50 ml, 2N) with good stirring. The CHCl3 layer was dried over Na2SO4, then chromatographed on basic alumina. Evaporation on the CHCl3 eluant afforded a white solid which was further purified by recrystallization from petroleum ether (30°-60°) to give 1.7g (56%) of analytically pure product; mp 115°-6°.

reactant | 5,7-dimethyl pyrazolo[1,5-a]-pyrimidine | 2.0g | CC1=NC=2N(C(=C1)C)N=CC2 | C8H9N3
reactant | N-bromosuccinimide | 2.42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium hydroxide | 2N, 50 ml | [OH-].[K+]
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-5,7-dimethyl pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=C(C=C2C)C | C8H8BrN3
